US06472418B1
3-(1H-Indol-3-yl)-2-methyl-N-(1-phenyl-ethyl)-2-[(2H-pyrazol-3-ylmethyl)-amino]-propionamide, [R-(R*,S*)]
To a stirred solution of pyrazole-3-carboxaldehyde (96 mg, 1 mmol, supplied as dimer) in pyridine (10 mL) was added 2-amino-3-(1H-indol-3-yl)-2-methyl-N-(1-phenyl-ethyl)-propionamide (161 mg, 0.5 mmol) followed by sodium triacetoxyborohydride (848 mg, 4 mmol). After stirring over night at room temperature another portion of sodium triacetoxyborohydride (424 mg, 2 mmol) was added. After stirring over night at room temperature the pyridine was removed under reduced pressure. The residue was taken up in CH2Cl2 (100 mL) and saturated NaHCO3. The aqueous phase was extracted with CH2Cl2 (100 mL). The combined organic phases were washed with brine (50 mL), dried (MgSO4), and the solvent was removed under reduced pressure. The residue was initially purified by chromatography on normal phase silica using 95% EtOAc in heptane as eluent. The solvent was removed under reduced pressure and the residue was dissolved in aqueous acetonitrile and acidified using formic acid. Purification by chromatography on reverse phase silica using 25% CH3CN in H2O (0.1% formic acid in mobile phases) as eluent gave pure product. The solvent was removed under reduced pressure and the residue was suspended between EtOAc and saturated NaHCO3. The EtOAc was dried (MgSO4) and the solvent was removed under reduced pressure to give pure product as a glass (20 mg, 10%); IR (film): 3260, 3059, 2979, 2927, 1651, 1515, 1456, 1374, 1266, 1105, 1048, 1011, 932, 741 cm−1; NMR (DMSO-d6): δ1.22 (3H, s); 1.35 (3H, d, J=6.8 Hz); 2.26 (1H, s); 2.96-3.05 (2H, m); 3.50-3.75 (2H, m); 4.93 (1H, s); 6.10 (1H, s); 6.89-6.93 (2H, m); 7.00-7,04 (1H, m); 7.18-7.32 (6H, m); 7.35 (0.5H, s); 7.52 (1H, d, J=7.8 Hz); 7.60 (0.5H, s); 8.05-8.20 (1H, m); 10.82 (1H, s); 12.52 (0.5H, s); 12.73 (0.5H, s); MS m/e (ES+): 424.1 (27%); 402.1 (100%, M++H).

reactant | pyrazole-3-carboxaldehyde | 1 mmol, 96 mg | N1N=C(C=C1)C=O | C4H4N2O
reactant | 2-amino-3-(1H-indol-3-yl)-2-methyl-N-(1-phenyl-ethyl)-propionamide | 0.5 mmol, 161 mg | NC(C(=O)NC(C)C1=CC=CC=C1)(CC1=CNC2=CC=CC=C12)C | C20H23N3O
reactant | sodium triacetoxyborohydride | 4 mmol, 848 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium triacetoxyborohydride | 2 mmol, 424 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | 3-(1H-Indol-3-yl)-2-methyl-N-(1-phenyl-ethyl)-2-[(2H-pyrazol-3-ylmethyl)-amino]-propionamide | 20 mg, 10% | N1C=C(C2=CC=CC=C12)CC(C(=O)NC(C)C1=CC=CC=C1)(NCC=1NN=CC1)C | C24H27N5O
